US05252538
Preparation of triethyl 6-chloro-2,3,5-pyridine-tricarboxylate
A solution of triethyl 1,6-dihydro-6-oxo-2,3,5-pyridine-tricarboxylate (39.7 g) in 300 mL of phosphorous oxychloride and 0.5 mL dimethylformamide is stirred at 100° C. for four hours and 15 minutes. After cooling, the excess phosphorous oxychloride is removed under vacuum. The residue is taken up in 200 mL methylene chloride and the solution poured into 500 mL of ice water and the layers are separated. The aqueous layer, made basic with concentrated ammonium hydroxide and ice, is extracted with 150 mL methylene chloride. The combined methylene chloride extracts are dried over magnesium sulfate, filtered and concentrated under vacuum, and the resulting crude product is chromatographed on silica using 5:1 hexanes:ethyl acetate and then 4:1 hexanes:ethyl acetate as eluants affording 26.5 g (47%) of the title product as an oil.

reactant | triethyl 1,6-dihydro-6-oxo-2,3,5-pyridine-tricarboxylate | 39.7 g | O=C1C(=CC(=C(N1)C(=O)OCC)C(=O)OCC)C(=O)OCC | C14H17NO7
reactant | phosphorous oxychloride | 300 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | triethyl 6-chloro-2,3,5-pyridine-tricarboxylate | 26.5 g, 47% | ClC1=C(C=C(C(=N1)C(=O)OCC)C(=O)OCC)C(=O)OCC | C14H16ClNO6
